US06653330B2
4′-Bromo-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzanilide (Exemplification Compound Number 10-1)
In the same manner as that described in Example 3(4), a reaction was carried out using commercially available 4-bromoaniline (205 mg, 1.2 mmol), trimethylaluminium (1.1 ml, 1.07M n-hexane solution, 1.2 mmol) and methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate (150 mg, 0.30 mmol), obtained in Example 12(1), and the reaction mixture was treated using a similar procedure to that described in Example 3(4) to afford the title compound (182 mg, yield 95%) as a white solid which was recrystallized from ethyl acetate to give white powdery crystals.

reactant | 4-bromoaniline | 1.2 mmol, 205 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | trimethylaluminium | 1.2 mmol, 1.07M, 1.1 ml | C[Al](C)C
reactant | methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate | 0.30 mmol, 150 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)OC)C=C1)(CN1N=CN=C1)O | C24H25F2N3O5S
product | 4′-Bromo-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzanilide | 182 mg, yield 95% | BrC1=CC=C(NC(C2=CC=C(C=C2)[C@@H]2OC[C@H](CO2)S[C@@H]([C@@](CN2N=CN=C2)(O)C2=C(C=C(C=C2)F)F)C)=O)C=C1 | C29H27BrF2N4O4S
